US08084469B2
5-(4-Ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylic acid [racemic cis isomer mixture]
According to General Method 4A, 1.2 g (3.0 mmol) of methyl 5-(4-ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylate were reacted with 3.4 g (30.4 mmol) of potassium tert-butoxide. Yield: 599 mg (50% of theory)

reactant | methyl 5-(4-ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylate | 3.0 mmol, 1.2 g | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C(=O)N1CCSCC1)C(=O)OC)F | C20H27FN2O3S
reactant | potassium tert-butoxide | 30.4 mmol, 3.4 g | CC(C)([O-])C.[K+]
product | 5-(4-Ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylic acid | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C(=O)N1CCSCC1)C(=O)O)F | C19H25FN2O3S
